US07285558B2
7-isobutyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-5-(pyridin-3-ylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was synthesized by the reaction of 7-isobutyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione and 3-(chloromethyl)pyridine hydrochloride using DBU as a base. Mass: 516.86 (M+H).

reactant | 7-isobutyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(C(C)C)N1C(NC(C=2C1=NN(C2C2=CC=NC=C2)CC2=CC=CC1=CC=CC=C21)=O)=O | C25H23N5O2
reactant | 3-(chloromethyl)pyridine hydrochloride | Cl.ClCC=1C=NC=CC1
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
product | 7-isobutyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-5-(pyridin-3-ylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(C(C)C)N1C(N(C(C=2C1=NN(C2C2=CC=NC=C2)CC2=CC=CC1=CC=CC=C21)=O)CC=2C=NC=CC2)=O | C31H28N6O2
